US05527818
Preparation of 3-(2,4-dichloro-3-methylphenoxysulfonyl)-1,2,4-triazole
2.33 g of 2.4-dichloro-3-methylphenol was dissolved in 15 ml of tetrahydrofuran, and 1.84 ml of triethylamine was added while stirring the solution. Then, 2.0 g of 3-chlorosulfonyl-1,2,4-triazole was gradually added while cooling with ice and stirring the solution. Then, the solution was stirred at room temperature for 14 hours. Tetrahydrofuran was removed by distillation at reduced pressure, 2N hydrochloric acid was added, and extracted with ethyl acetate. The organic layer was washed with brine, and dried with magnesium sulfate. Then, the solvent was removed by distillation, so that coarse crystals were obtained. The coarse crystals were recrystallized from n-hexane/ethyl acetate, so that 2.25 g of the titled compound was obtained.

reactant | 2.4-dichloro-3-methylphenol | 2.33 g | ClC1=C(C=CC(=C1C)Cl)O | C7H6Cl2O
reactant | triethylamine | 1.84 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chlorosulfonyl-1,2,4-triazole | 2.0 g | ClS(=O)(=O)C1=NNC=N1 | C2H2ClN3O2S
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 3-(2,4-dichloro-3-methylphenoxysulfonyl)-1,2,4-triazole | ClC1=C(OS(=O)(=O)C2=NNC=N2)C=CC(=C1C)Cl | C9H7Cl2N3O3S
